US08217066B2
Step 1: 1-(4′-{4-[(E)-1-Hydroxy-4-(2-trifluoromethyl-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 59, Step 1, using 1-{4′-[4-(1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and 1-iodo-2-trifluoromethyl-benzene.

reactant | 1-{4′-[4-(1-hydroxy-but-3-enyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CC=C)O | C26H27NO4
reactant | 1-iodo-2-trifluoromethyl-benzene | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
product | 1-(4′-{4-[(E)-1-Hydroxy-4-(2-trifluoromethyl-phenyl)-but-3-enyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C\C=C\C1=C(C=CC=C1)C(F)(F)F)O | C33H30F3NO4
